US05658935
45 mg of {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-D,L-homophenylalanine methyl ester are allowed to stand at room temperature for 1 h with 5 ml of concentrated hydrochloric acid. The mixture is then concentrated to dryness in vacuo, and the residue is taken up in a little water and freeze-dried. 24 mg of {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-D,L-homophenylalanine are obtained.

reactant | {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-D,L-homophenylalanine methyl ester | 45 mg | COC(C(NC(CN1C(C(CC1=O)CC1=CC=C(C=C1)C=NN)=O)=O)CCC1=CC=CC=C1)=O | C25H28N4O5
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | {3-[4-(aminoiminomethyl)benzyl]-2,5-dioxopyrrolidin-1-yl}acetyl-D,L-homophenylalanine | 24 mg | NN=CC1=CC=C(CC2C(N(C(C2)=O)CC(=O)NC(CCC2=CC=CC=C2)C(=O)O)=O)C=C1 | C24H26N4O5
